US09428503B2
Intermediate O1: 8-bromo-1-[(1R,3R)-3-methoxycyclopentyl]-3-methylimidazo[4,5-c]quinolin-2-one: 8-bromo-1-[(1S,3S)-3-methoxycyclopentyl]-3-methylimidazo[4,5-c]quinolin-2-one (1:1 mixture)
A mixture of 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid: 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid (1:1 mixture) (13 g, 35.8 mmol), tetrabutylammonium bromide (1.16 g, 3.60 mmol), iodomethane (7.645 g, 53.86 mmol) and sodium hydroxide (2.15 g, 53.75 mmol) in DCM (600 mL) and water (380 mL) was stirred at ambient temperature overnight. The resulting solution was concentrated under vacuum to remove the organics and the solids collected by filtration, washed with water (5×10 mL) and dried in a vacuum oven to afford the desired material (racemic mixture) (9.8 g, 73%) as a off-white solid. NMR Spectrum: 1H NMR (400 MHz, DMSO-d6) δ 1.81-1.87 (1H, m), 2.33-2.51 (4H, m), 2.45-2.51 (1H, m), 3.28 (3H, s), 3.49 (3H, s), 4.02-4.21 (1H, m), 5.40 (1H, p), 7.73 (1H, dd), 7.98 (1H, d), 8.35 (1H, d), 8.91 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=375.9.

reactant | 6-bromo-4-[[(1R,3R)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid 6-bromo-4-[[(1S,3S)-3-methoxycyclopentyl]amino]quinoline-3-carboxylic acid | 35.8 mmol, 13 g | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@H]1C[C@@H](CC1)OC.BrC=1C=C2C(=C(C=NC2=CC1)C(=O)O)N[C@@H]1C[C@H](CC1)OC | 2C16H17BrN2O3
reactant | iodomethane | 53.86 mmol, 7.645 g | IC | CH3I
reactant | sodium hydroxide | 53.75 mmol, 2.15 g | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 3.60 mmol, 1.16 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DCM | 600 mL | C(Cl)Cl | CH2Cl2
solvent | water | 380 mL | O | H2O
product | 8-bromo-1-[(1R,3R)-3-methoxycyclopentyl]-3-methylimidazo[4,5-c]quinolin-2-one 8-bromo-1-[(1S,3S)-3-methoxycyclopentyl]-3-methylimidazo[4,5-c]quinolin-2-one | 9.8 g, 73% | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@H]3C[C@@H](CC3)OC)=O)C.BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3C[C@H](CC3)OC)=O)C | 2C17H18BrN3O2
